US07851626B2
rac-(1R*,2S*)-1,2-Bis-(4-chloro-phenyl)-propane-1,2-diamine
A suspension of rac-(3R*,4S*)-3,4-bis(4-chlorophenyl)-3-methyl-1,2,5-thiadiazolidine-1,1-dioxide (3.71 g, 10.4 mmol) and phenol (4.86 g, 52 mmol) in 48% hydrobromic acid (13.56 mL) and acetic acid (46.44 mL) was stirred at 130° C. for 40 min (reaction progress monitored by TLC), then allowed to cool to room temperature. The crude reaction mixture was partitioned between ethyl acetate and water, and the aqueous phase washed twice with ethyl acetate. The aqueous phase was then made basic by the slow addition of solid sodium hydroxide (60 g; CARE! Exothermic) and extracted with diethyl ether (3×500 mL). The combined ethereal extracts were washed with 2M sodium hydroxide (100 mL), then dried over anhydrous sodium sulfate (with a few pellets of solid sodium hydroxide) and evaporated to give the title compound (1.56 g). This material was carried forward to the next step without any further purification.

reactant | rac-(3R*,4S*)-3,4-bis(4-chlorophenyl)-3-methyl-1,2,5-thiadiazolidine-1,1-dioxide | 10.4 mmol, 3.71 g | ClC1=CC=C(C=C1)C1(NS(NC1C1=CC=C(C=C1)Cl)(=O)=O)C | C15H14Cl2N2O2S
reactant | phenol | 52 mmol, 4.86 g | C1(=CC=CC=C1)O | C6H6O
solvent | hydrobromic acid | 13.56 mL | Br | BrH
solvent | acetic acid | 46.44 mL | C(C)(=O)O | C2H4O2
product | rac-(1R*,2S*)-1,2-Bis-(4-chloro-phenyl)-propane-1,2-diamine | 1.56 g | ClC1=CC=C(C=C1)C(C(C)(N)C1=CC=C(C=C1)Cl)N | C15H16Cl2N2
